US07763639B2
4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1-(3,3,3-TRIFLUORO-PROPYL)PIPERIDINE
Preparation according to Example 1: 4-[2-fluoro-3-(methylsulfonyl)phenyl]piperidine (0.02 g, 0.078 mmol), acetonitrile (2 ml), potassium carbonate (0.02 g, 0.14 mmol), 1,1,1-trifluoro-3-iodopropane (0.010 ml, 0.082 mmol). MS m/z (relative intensity, 70 eV) 353 (M+, 11), 271 (15), 270 (bp), 152 (14) 133 (9).

reactant | 4-[2-fluoro-3-(methylsulfonyl)phenyl]piperidine | 0.078 mmol, 0.02 g | FC1=C(C=CC=C1S(=O)(=O)C)C1CCNCC1 | C12H16FNO2S
reactant | potassium carbonate | 0.14 mmol, 0.02 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1-trifluoro-3-iodopropane | 0.082 mmol, 0.010 ml | FC(CCI)(F)F | C3H4F3I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 4-[2-FLUORO-3-(METHYLSULFONYL)PHENYL]-1-(3,3,3-TRIFLUORO-PROPYL)PIPERIDINE | FC1=C(C=CC=C1S(=O)(=O)C)C1CCN(CC1)CCC(F)(F)F | C15H19F4NO2S
